US07297713B2
N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]-3-methylbutanamide
The title compound was prepared according to the general procedure for acylation of 5-(4-aminophenyl)-1-methyl-1H-pyrrole-2-carbonitrile using 3-methyl-butyryl chloride (67 μL, 0.55 mmol) to provide N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]-3-methyl butanamide (0.042 g).

reactant | 5-(4-aminophenyl)-1-methyl-1H-pyrrole-2-carbonitrile | NC1=CC=C(C=C1)C1=CC=C(N1C)C#N | C12H11N3
reactant | 3-methyl-butyryl chloride | 0.55 mmol, 67 μL | CC(CC(=O)Cl)C | C5H9ClO
product | N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]-3-methyl butanamide | 0.042 g | C(#N)C1=CC=C(N1C)C1=CC=C(C=C1)NC(CC(C)C)=O | C17H19N3O
